US08389524B2
(b) 6,7-Dihydro-5H-cyclopenta[c]pyridin-3-ylmethanol
A solution of ethyl 6,7-dihydro-5H-cyclopenta[c]pyridine-3-carboxylate (427 mg, 2.233 mmol) in (THF) (20 ml) at −78° C. under argon was treated with LiAlH4 (1M in THF) (2.233 ml, 2.233 mmol) and allowed warm to rt. After 10 min at rt, water (1 ml), 2M aq NaOH (1 ml) and water (1 ml) were sequentially added and the mixture stirred at rt for 0.5 h. The mixture was then filtered through a short pad of Kieselguhr, eluting with THF (50 ml), organic extracts were then evaporated, chromatographed (0-20% methanol/DCM) to give product as an orange oil (189 mg, 57%).

reactant | ethyl 6,7-dihydro-5H-cyclopenta[c]pyridine-3-carboxylate | 2.233 mmol, 427 mg | C1=NC(=CC2=C1CCC2)C(=O)OCC | C11H13NO2
reactant | THF | C1CCOC1 | C4H8O
reactant | LiAlH4 | 2.233 mmol, 1M, 2.233 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 2M, 1 ml | [OH-].[Na+]
solvent | water | 1 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 6,7-Dihydro-5H-cyclopenta[c]pyridin-3-ylmethanol | 189 mg, 57% | C1=NC(=CC2=C1CCC2)CO | C9H11NO
